US04077956
1,3-Dimethyl-5-mercapto-1H-dipyrazolo[1,5-a:4',3'-e]pyrazine-6-carboxylic acid, ethyl ester
5.86 gms. of 5-chloro-1,3-dimethyl-1H-dipyrazolo[1,5-a:4',3'-e]pyrazine-6-carboxylic acid, ethyl ester, are refluxed with 2 gms. of sodium bisulfide and 50 ml. of n-propanol for 3 hours. On cooling, the product, 1,3-dimethyl-5-mercapto-1H-dipyrazolo[1,5-a:4',3'-e]pyrazine-6-carboxylic acid, ethyl ester, crystallizes in the form of yellow filamentous needles which are recrystallized from n-propanol, yield 4.76 gms., m.p. 189°-191°.

reactant | 5-chloro-1,3-dimethyl-1H-dipyrazolo[1,5-a:4',3'-e]pyrazine-6-carboxylic acid, ethyl ester | ClC=1C=2N(C3=C(N1)C(=NN3C)C)N=CC2C(=O)OCC | C12H12ClN5O2
reactant | sodium bisulfide | [SH-].[Na+]
solvent | n-propanol | C(CC)O | C3H8O
product | 1,3-Dimethyl-5-mercapto-1H-dipyrazolo[1,5-a:4',3'-e]pyrazine-6-carboxylic acid, ethyl ester | CN1N=C(C=2N=C(C=3N(C21)N=CC3C(=O)OCC)S)C | C12H13N5O2S
